US06258824B1
4-(3-Chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one
To a solution of the title compound of example 1, 4-(3-chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one (100 mg, 0.210 mmol) in DMF (2 ml) were added NaCl (8 mg), cesium carbonate (Cs2CO3, 103 mg, 0.315 mmol) and (bromomethyl)cyclopropane (0.041 ml, 0.420 mmol). The reaction mixture was stirred at ambient temperature for 15 hours. Additional 0.041 ml) of (bromomethyl)cyclopropane and 100 mg of Cs2CO were added. The reaction mixture was heated at 60° C. for 1 hour after which time it was partitioned between CHCl3 and water. The organic layer was washed with brine, dried over MgSO4 and concentrated under vacuum to give the crude product. It was chromatographed on silica gel with MeOH—CHCl3—NH4OH (3:97:0) as eluents to afford the title compound as a white solid (25 mg, 22% yield).

reactant | 4-(3-chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one | 0.210 mmol, 100 mg | ClC=1C=C(C=CC1)C1=CC(NC2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C=1C=NC(=CC1)Cl)=O | C25H18Cl2N4O2
reactant | NaCl | 8 mg | [Na+].[Cl-]
reactant | cesium carbonate | 0.315 mmol, 103 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (bromomethyl)cyclopropane | 0.420 mmol, 0.041 ml | BrCC1CC1 | C4H7Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(3-Chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C=1C=NC(=CC1)Cl)CC1CC1)=O | C29H24Cl2N4O2
